US07479502B2
Proceeding as in Reference 18, but substituting 3-bromo-4-methoxybenzonitrile (4.77 g, 22.5 mmol) and bis(pinacolato)diboron (6.85 g, 27.0 mmol)gave 4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile.

reactant | 3-bromo-4-methoxybenzonitrile | 22.5 mmol, 4.77 g | BrC=1C=C(C#N)C=CC1OC | C8H6BrNO
reactant | bis(pinacolato)diboron | 27.0 mmol, 6.85 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile | COC1=C(C=C(C#N)C=C1)B1OC(C(O1)(C)C)(C)C | C14H18BNO3
